Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[O:9][H:10].[H:5],3.57999582731
[O:1]=[C:2][C:3]1([H:4])[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],0.4214647969300001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:13]([H:14])([H:15])[H:16],4.65540281116
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.49199011136
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],3.96880285151
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14][H:15],5.30623892883
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[H:5],0.96824920796
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7]>>[C:2]#[C:3][C:4][C:5]([H:6])[H:7].[H:1],4.232919112419999
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],3.20492744025
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1][O:2][C@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10],-0.58004141564
[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11],-3.83153571406
[H:14].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.601395091730001
[C:3]#[C:4][H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.13875707991
[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]=[C:6]([H:7])[H:8],-0.5065148313210001
[H:1][C:3]([C:2][C:9]([H:10])([H:11])[H:12])([O:4][C:5]#[C:8][H:6])[H:7]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12],-3.49728071136
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-1.39138623503
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.51685740106
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.68045979752
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.94086259545
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.85957659383
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:12]([H:13])([H:14])[H:15],5.49396205608
[H:12].[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]\[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.79497718385
[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.70367474538
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:5],4.06139317156
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-6.74254992007
[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][H:4],2.0631095314200003
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.49795943102
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]#[C:6][O:7][H:8].[H:5],3.0479634622400003
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],6.473814658539999
